US08048899B2
A solution of 2.79 g (13.45 mmol) of 1-{[(2S)-oxan-2-ylmethyl]sulfanyl}ethan-1-one in ethanol (60 mL) is degassed with nitrogen over 0.5 h and 1.51 g (26.91 mmol) of KOH are added. Then 3.99 mL (26.91 mmol) of ethyl α-bromoisobutyrate are added slowly. The reaction is stirred for 18 h at room temperature under a nitrogen atmosphere. The reaction mixture is filtered, the solid is rinsed with ethanol and the filtrate is concentrated under reduced pressure. The crude material is purified by column chromatography (silica, eluent: n-heptanes, 0-20% ethyl acetate) to afford 2.68 g of ethyl 2-methyl-2-{[(2S)-oxan-2-ylmethyl]sulfanyl}propanoate (purity 90%). Yield: 72%; ES-MS: m/z 247 [M+H]; 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 1.23-1.36 (5H, m), 1.45-1.59 (8H, m), 1.68 (1H, d, J=13.12 Hz), 1.83 (1H, d, J=10.99 Hz), 2.62-2.71 (1H, m), 2.72-2.80 (1H, m), 3.25-3.47 (2H, m), 3.95-4.03 (1H, m), 4.17 (2H, q, J=7.12 Hz).

reactant | 1-{[(2S)-oxan-2-ylmethyl]sulfanyl}ethan-1-one | 13.45 mmol, 2.79 g | O1[C@@H](CCCC1)CSC(C)=O | C8H14O2S
reactant | KOH | 26.91 mmol, 1.51 g | [OH-].[K+]
reactant | ethyl α-bromoisobutyrate | 26.91 mmol, 3.99 mL | BrC(C(=O)OCC)(C)C | C6H11BrO2
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | ethyl 2-methyl-2-{[(2S)-oxan-2-ylmethyl]sulfanyl}propanoate | 2.68 g, Yield: 72% | CC(C(=O)OCC)(C)SC[C@H]1OCCCC1 | C12H22O3S
